US09169271B2
5-(Cyclopropylmethoxy)pyrazine-2-carboxylic acid
A solution of 5-chloropyrazine-2-carboxylic acid (1.00 g, 6.31 mmol), cyclopropyl carbinol (1.00 mL, 12.4 mmol) and potassium tert-butoxide (2.00 g, 17.8 mmol) in dimethylformamide (20.0 mL) is heated at 100° C. for 3 hours. The reaction is cooled to room temperature, quenched with 1 M hydrochloric acid. The mixture is extracted with ethyl acetate and isopropyl alcohol/chloroform (1/10), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to give the title compound (1.10 g, 90%) as a grayish solid. This acid is used directly without further purification.

reactant | 5-chloropyrazine-2-carboxylic acid | 6.31 mmol, 1.00 g | ClC=1N=CC(=NC1)C(=O)O | C5H3ClN2O2
reactant | cyclopropyl carbinol | 12.4 mmol, 1.00 mL | C1(CC1)CO | C4H8O
reactant | potassium tert-butoxide | 17.8 mmol, 2.00 g | CC(C)([O-])C.[K+]
solvent | dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
product | 5-(Cyclopropylmethoxy)pyrazine-2-carboxylic acid | 1.10 g, 90% | C1(CC1)COC=1N=CC(=NC1)C(=O)O | C9H10N2O3
